US05389633
Production of 6-(3,3-dimethyl-5-sulfamoyl-1-pentyloxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine
Using 5-(N,N-dimethylaminomethylene)aminosulfonyl-3,3-dimethyl-1-pentanol and 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine, the same reaction as in Example 6 was conducted to produce the title compound. m.p. 143°-144° C.

reactant | 5-(N,N-dimethylaminomethylene)aminosulfonyl-3,3-dimethyl-1-pentanol | CN(C)C=NS(=O)(=O)CCC(CCO)(C)C | C10H22N2O3S
reactant | 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | ClC=1C(=CC=2N(N1)N=CN2)C | C6H5ClN4
product | 6-(3,3-dimethyl-5-sulfamoyl-1-pentyloxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | CC(CCOC=1C(=CC=2N(N1)N=CN2)C)(CCS(N)(=O)=O)C | C13H21N5O3S
